US04554100
Benzyloxycarbonylalanyl-alanyl Proline Propylamide
This compound was prepared by a process analogous to that employed in preparing benzyloxycarbonyl alanine ethylamide from benzyloxycarbonyl alanine and alanyl proline propylamide in a 71% yield with a melting point of 101 to 103 degrees C. [α]D20 -47.7 degrees (c 0.3; dimethylformamide).

reactant | benzyloxycarbonyl alanine ethylamide | C(C)NC([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O | C13H18N2O3
reactant | benzyloxycarbonyl alanine | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)O | C11H13NO4
reactant | alanyl proline propylamide | C(CC)NC([C@H]1N(CCC1)C([C@@H](N)C)=O)=O | C11H21N3O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Benzyloxycarbonylalanyl-alanyl Proline Propylamide | 71% yield | C(CC)NC([C@H]1N(CCC1)C([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O)C)=O)=O | C22H32N4O5
